US06528543B1
A mixture of 3-cyclopentyl-2-(4-nitro-phenyl)-propionic acid ethyl ester (1.27 g, 4.36 mmol) and methyl urea (647 mg, 8.73 mmol) in a solution of magnesium methoxide in methanol (7.4 wt %, 9.36 mL, 6.54 mmol) was refluxed at 100° C. for 8.5 h. The reaction mixture was then concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 50/50 hexanes/ethyl acetate) afforded 1-[3-cyclopentyl-2-(4-nitro-phenyl)-propionyl]-3-methyl-urea (183.6 mg, 13.2%) as a white solid: mp 179-183° C.; EI-HRMS m/e calcd for C16H21N3O4(M+) 319.1532, found 319.1527.

reactant | 3-cyclopentyl-2-(4-nitro-phenyl)-propionic acid ethyl ester | 4.36 mmol, 1.27 g | C(C)OC(C(CC1CCCC1)C1=CC=C(C=C1)[N+](=O)[O-])=O | C16H21NO4
reactant | methyl urea | 8.73 mmol, 647 mg | CNC(=O)N | C2H6N2O
reactant | magnesium methoxide | C[O-].[Mg+2].C[O-]
reactant | methanol | 6.54 mmol, 9.36 mL | CO | CH4O
product | 1-[3-cyclopentyl-2-(4-nitro-phenyl)-propionyl]-3-methyl-urea | 183.6 mg, 13.2% | C1(CCCC1)CC(C(=O)NC(=O)NC)C1=CC=C(C=C1)[N+](=O)[O-] | C16H21N3O4
